US04357327
O,O-Dimethyl O-(1-(2-pyridinyl)-1H-1,2,4-triazol-3-yl) phosphorothioate
A mixture of 8.10 g (0.05 m) of 1-(2-pyridinyl)-1H-1,2,4-triazol-3-ol and 8.29 g (0.06 m) of powdered potassium carbonate in 150 ml of acetonitrile was vigorously stirred together for 21/2 hours at 40°-50° C. To this mixture was successively added a solution of 0.29 g (0.0024 m (5 mole percent)) of 4-dimethylaminopyridine in 25 ml of acetonitrile followed by a solution of 7.94 g (0.048 m) of O,O-dimethyl phosphorochloridothioate in 25 ml of acetonitrile. After a 2 hour period, the reaction was complete and the reaction mixture was filtered and evaporated to dryness. The oil which remained as a residue was triturated with hexane and solidification occurred. The solid, crude O,O-dimethyl O-(1-(2-pyridinyl)-1H-1,2,4-triazol-3-yl) phosphorothioate product was recovered in a yield of 11.3 g (82 percent of theoretical) and melted at 88°-91° C. The product after recrystallization from methyl cyclohexane melted at 95°-96° C. Upon analysis, the product was found to have carbon, hydrogen and nitrogen contents of 37.68, 3.91 and 19.51 percent, respectively, as compared with the theoretical contents of 37.76, 3.87 and 19.58 percent, respectively, as calculated for the named compound. (Compound 6).

reactant | 1-(2-pyridinyl)-1H-1,2,4-triazol-3-ol | 8.10 g | N1=C(C=CC=C1)N1N=C(N=C1)O | C7H6N4O
reactant | potassium carbonate | 8.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-dimethyl phosphorochloridothioate | 7.94 g | P(OC)(OC)(Cl)=S | C2H6ClO2PS
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 0.29 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | O,O-Dimethyl O-(1-(2-pyridinyl)-1H-1,2,4-triazol-3-yl) phosphorothioate | P(OC)(OC)(OC1=NN(C=N1)C1=NC=CC=C1)=S | C9H11N4O3PS
